US07307088B2
Step A: Preparation of 2-(isoquinolin-7-ylamino)-benzoic acid ethyl ester
A mixture of 2-bromo-benzoic acid ethyl ester (458 mg, 2.0 mmol), 7-aminoisoquinoline (144 mg, 1.0 mmol), Pd(OAc)2 (11 mg), BINAP (30 mg) and K2CO3 (414 mg) in 1 mL of toluene was stirred in a sealed tube for 16 h at 105° C. The reaction was cooled to RT, diluted with 20 mL of CH2Cl2, filtered through Celite®, concentrated, and purified by flash column chromatography to obtain the titled compound as an oil. MS (ES+): 293.3 (M+H)+. Calc'd for C18H16N2O2-292.

reactant | 2-bromo-benzoic acid ethyl ester | 2.0 mmol, 458 mg | C(C)OC(C1=C(C=CC=C1)Br)=O | C9H9BrO2
reactant | 7-aminoisoquinoline | 1.0 mmol, 144 mg | NC1=CC=C2C=CN=CC2=C1 | C9H8N2
reactant | BINAP | 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 414 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 11 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(isoquinolin-7-ylamino)-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)NC1=CC=C2C=CN=CC2=C1)=O | C18H16N2O2
